US05041455
C. 3-(4-methoxy-1,2,5-thiadiazol-3-yl)-1-methyl-pyridinium iodide
A mixture of methyl iodide (0.37 ml, 6 mmol) and 3-(4-methoxy-1,2,5-thiadiazol-3-yl)pyridine (500 mg, 2.5 mmol) in acetone (10 ml) was stirred at room temperature for 18 h. The title compound precipitated from the solution and was collected by filtration. Yield: 1.0 g (100%).

reactant | methyl iodide | 6 mmol, 0.37 ml | CI | CH3I
reactant | 3-(4-methoxy-1,2,5-thiadiazol-3-yl)pyridine | 2.5 mmol, 500 mg | COC=1C(=NSN1)C=1C=NC=CC1 | C8H7N3OS
solvent | acetone | 10 ml | CC(=O)C | C3H6O
product | 3-(4-methoxy-1,2,5-thiadiazol-3-yl)-1-methyl-pyridinium iodide | [I-].COC=1C(=NSN1)C=1C=[N+](C=CC1)C | InChI=1S/C9H10N3OS.HI/c1-12-5-3-4-7(6-12)8-9(13-2)11-14-10-8;/h3-6H,1-2H3;1H/q+1;/p-1
